* C:\Users\ekultho\Documents\Personal\CG 490\FEMM Simulations\SPICE Dependencies\offTime.asc
V2 N001 0 50 Rser=.12
L1 N001 Vo {L_COIL} Rser={R_COIL} Cpar=1e-9
XD1 N002 Vo SMDJ24A
XD2 0 N002 SMDJ24A
.tran 0 0.04 0 0.00001
.lib SMDJXXXA.lib
.ic I(L1) = I_COIL
.param I_COIL=132.76060485839844
.param L_COIL=0.0003
.param R_COIL=0.2536952916854035
.backanno
.end
